US08168802B2
A solution of 5-iodo-1-(2-methylpropyl)-1H-imidazole-4-carbonitrile (0.15 g, 0.54 mmol) in 1,2-dimethoxyethane (DME) (6 mL) and then water (3 mL) were added to a mixture of 2-aminophenylboronic acid hydrochloride (0.21 g, 1.2 mmol) and potassium carbonate (0.27 g, 1.9 mmol), and the mixture was evacuated and purged with nitrogen three times. Dichlorobis(triphenylphosphine)palladium(II) (16 mg, 0.02 mmol) was added, and the mixture was flushed with nitrogen and heated at reflux (90° C.) for one hour and allowed to cool to room temperature. The reaction mixture was filtered through a layer of CELITE filter aid, and the filter cake was washed with water (30 mL) and dichloromethane (40 mL). The filtrate layers were separated, and the aqueous layer was extracted with dichloromethane (20 mL). The combined organic fractions were concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel to provide 0.13 g of 5-(2-aminophenyl)-1-(2-methylpropyl)-1H-imidazole-4-carbonitrile as an amber liquid that crystallized upon standing for 20 minutes.

reactant | 5-iodo-1-(2-methylpropyl)-1H-imidazole-4-carbonitrile | 0.54 mmol, 0.15 g | IC1=C(N=CN1CC(C)C)C#N | C8H10IN3
reactant | water | 3 mL | O | H2O
reactant | 2-aminophenylboronic acid hydrochloride | 1.2 mmol, 0.21 g | Cl.NC1=C(C=CC=C1)B(O)O
reactant | potassium carbonate | 1.9 mmol, 0.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 6 mL | COCCOC | C4H10O2
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.02 mmol, 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-(2-aminophenyl)-1-(2-methylpropyl)-1H-imidazole-4-carbonitrile | 0.13 g | NC1=C(C=CC=C1)C1=C(N=CN1CC(C)C)C#N | C14H16N4
